US05506219
A slurry of LiAlH4 (305 mg, 8.04 mmol) in dry Et2O (30 ml) at 0° C. treated with a solution of 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinecarboxylic acid, ethyl ester (1.587 gm, 4.73 mmol) in Et2O (4 ml). After 50 minutes, the reaction was quenched and diluted with H2O and the solution was adjusted to neutral pH with 10% HCl. EtOAc was added to dissolve suspended product into the Et2O layer and the mixture was subsequently extracted three times with EtOAc. The combined organic layers were washed with H2O and brine, then dried (Na2SO4), filtered and stripped to give a yellow solid. Recrystallization of the solid from hot hexane/acetone afforded 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinemethanol (916 mg) as a white solid. An additional 283 mg of 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinemethanol was obtained by evaporation of the mother liquor followed by recrystallization of the residue from hot hexane/EtOAc, giving a total of 1.199 gm (86%) product.

reactant | LiAlH4 | 8.04 mmol, 305 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinecarboxylic acid, ethyl ester | 4.73 mmol, 1.587 gm | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)C(=O)OCC | C21H18FNO2
solvent | Et2O | 30 ml | CCOCC | C4H10O
solvent | Et2O | 4 ml | CCOCC | C4H10O
product | 4-(4-fluorophenyl)-2-methyl-6-phenyl-3-pyridinemethanol | 916 mg | FC1=CC=C(C=C1)C1=C(C(=NC(=C1)C1=CC=CC=C1)C)CO | C19H16FNO
